US08735412B2
(RS)-1-Cyclopropane sulfinyl-4-nitrobenzene
179 mg (1.11 mmol) of iron(III) chloride was added to a mixture of 7.2 g (36.88 mmol) of 1-cyclopropylsulfanyl-4-nitrobenzene in 140 ml acetonitrile and it was stirred for 15 minutes at room temperature. Then 9.25 g (40.57 mmol) of periodic acid was added in portions at 25° C. The mixture was stirred for 30 minutes and then added, while stirring, to a cooled saturated sodium thiosulfate solution. It was then extracted with ethyl acetate (2×). The combined organic phases were dried (Na2SO4), filtered and concentrated by evaporation. The residue obtained was purified chromatographically (hexane/ethyl acetate 1:1). 5.93 g (28.07 mmol; yield: 76%) of the product was obtained.

reactant | 1-cyclopropylsulfanyl-4-nitrobenzene | 36.88 mmol, 7.2 g | C1(CC1)SC1=CC=C(C=C1)[N+](=O)[O-] | C9H9NO2S
reactant | periodic acid | 40.57 mmol, 9.25 g | I(=O)(=O)(=O)O | HIO4
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | acetonitrile | 140 ml | C(C)#N | C2H3N
catalyst | iron(III) chloride | 1.11 mmol, 179 mg | [Fe](Cl)(Cl)Cl
product | (RS)-1-Cyclopropane sulfinyl-4-nitrobenzene | yield: 76% | C1(CC1)S(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C9H9NO3S
